US07741327B2
To a suspension of 5-(4-methoxy-benzyl)-[1,3,4]oxathiazol-2-one (335 mg, 1.50 mmol) in mesitylene (3 mL) was added 4-toluenesulfonylcyanide (572 mg, 3.00 mmol) and the resulting mixture heated to 150° C. for 135 min. The resulting brown solution was cooled and purified by flash chromatography (silica gel, 0% to 33% ethyl acetate/hexanes) which afforded 3-(4-methoxy-benzyl)-5-(toluene-4-sulfonyl)-[1,2,4]thiadiazole (462 mg, 86%) as a dark yellow solid.

reactant | 5-(4-methoxy-benzyl)-[1,3,4]oxathiazol-2-one | 1.50 mmol, 335 mg | COC1=CC=C(CC2=NSC(O2)=O)C=C1 | C10H9NO3S
reactant | 4-toluenesulfonylcyanide | 3.00 mmol, 572 mg | C1(=CC=C(C=C1)S(=O)(=O)C#N)C | C8H7NO2S
solvent | mesitylene | 3 mL | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 3-(4-methoxy-benzyl)-5-(toluene-4-sulfonyl)-[1,2,4]thiadiazole | 462 mg, 86% | COC1=CC=C(CC2=NSC(=N2)S(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C17H16N2O3S2
